US04163852
A mixture of 4,5,6,7-tetrahydro-thieno[2,3-c]pyridine (1 g; 7.2 mmoles), p-cyano-phenol (95% purity; 0.9 g; 7.2 mmoles), polyoxymethylene (0.43 g; 14.4 mmoles) and dioxan (20 cc) is stirred at 80° C. during 4 hours. After concentration in vacuo, the residue is taken up into 2N hydrochloric acid. The aqueous phase is extracted with ether, made basic with concentrated ammonia and again extracted with methylene chloride. The organic extracts are washed with water, dried over sodium sulfate and concentrated in vacuo. The residue is recrystallized from isopropyl ether-isopropanol (M.p. 134° C.; yield: 23%).

reactant | 4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | 7.2 mmoles, 1 g | S1C=CC2=C1CNCC2 | C7H9NS
reactant | p-cyano-phenol | 7.2 mmoles | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | polyoxymethylene | 14.4 mmoles, 0.43 g | O(C[*:2])[*:1]
solvent | dioxan | 20 cc | O1CCOCC1 | C4H8O2
product | isopropyl ether isopropanol | yield: 23% | C(C)(C)OC(C)C.C(C)(C)O | InChI=1S/C6H14O.C3H8O/c1-5(2)7-6(3)4;1-3(2)4/h5-6H,1-4H3;3-4H,1-2H3
